* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1336.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 N003 N007 N009 N006 0 0 N008 N008 N003 0 N005 N005 N004 0 N002 LT1336
L1 N001 N002 200µ
R1 N001 N003 2
D1 N002 N004 1N4148
C1 0 N004 10µ
C2 N005 0 10000p
C3 N008 0 10000p
R2 N003 N006 10K
V1 N003 0 10
V2 N007 0 PULSE(0 3 0 0 0 5u 10u)
V3 N009 0 PULSE(0 3 2.5u 0 0 5u 10u)
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m
.lib LT1336.sub
.backanno
.end
